US05760259
7-(p-Propoxyphenyl)-6-heptenoic acid
This compound was synthesized from p-propoxybenzaldehyde (3.26 g, 20 mmol, prepared from 1-bromopropane and 4-hydroxybenzaldehyde) and 5-carboxypentyltriphenylphosphonium bromide (9.50 g, 20 mmol) in THF (100 mL) by a Wittig reaction. Crystallization (petroleum ether) afforded the product (3.15 g, 60%) as white crystals (mp: 52°-53° C.). IR: 3450-2500, 1730 cm-1 ; 1H-NMR: 1.00 (t, 3H), 1.48 (m, 2H), 1.67 (m, 2H), 1.82 (m, 2H), 2.35 (m, 4H), 3.92 (t, 2H), 5.72+6.05 (m, 1H), 6.35 (d, 1H), 7.05 (q, 4H), 10.40 (bs, 1H). Anal. Calcd. for C16 H22O3 : C, 73.25, H, 8.45%. Found: C, 73.15, H, 8.45%. Z:E=30:70.

reactant | p-propoxybenzaldehyde | 20 mmol, 3.26 g | C(CC)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | 5-carboxypentyltriphenylphosphonium bromide | 20 mmol, 9.50 g | [Br-].C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7-(p-Propoxyphenyl)-6-heptenoic acid | 3.15 g, 60% | C(CC)OC1=CC=C(C=C1)C=CCCCCC(=O)O | C16H22O3
